US07314888B1
In 75 ml of N,N-dimethylformamide are suspended 7.5 g of 3-(3-ethoxy-3-oxopropyl)-4-hydroxybenzoic acid, 17.5 g of potassium carbonate and 7.4 ml of acetic anhydride. The mixture thus obtained is stirred at ambient temperature for 2 hours. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 1.8 g of 4-(acetyloxy)-3-(3-ethoxy-3-oxopropyl)benzoic acid as a light brown-colored solid product.

reactant | 3-(3-ethoxy-3-oxopropyl)-4-hydroxybenzoic acid | 7.5 g | C(C)OC(CCC=1C=C(C(=O)O)C=CC1O)=O | C12H14O5
reactant | potassium carbonate | 17.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic anhydride | 7.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(acetyloxy)-3-(3-ethoxy-3-oxopropyl)benzoic acid | 1.8 g | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1)CCC(=O)OCC | C14H16O6
